US08008321B2
tert-Butyl 3-[3-(methoxycarbonyl)-4-nitrobenzoyl]imidazo[1,5-a]pyridine-6-carboxylate
This compound is obtained according to the same process as that described in example 9 by benzoylation of tert-butyl imidazo[1,5-a]pyridine-6-carboxylate with methyl 5-(chlorocarbonyl)-2-nitrobenzoate in the presence of triethylamine. A yellow solid is obtained. Melting point: 170° C.; 1H NMR (d6-DMSO): 1.63 (9H, s), 3.89 (3H, s), 7.76 (1H, d), 8.05 (1H, s), 8.12 (1H, d), 8.26 (1H, d), 8.70 (1H, d), 8.77 (1H, s), 10.25 (1H, s)

reactant | tert-butyl imidazo[1,5-a]pyridine-6-carboxylate | C=1N=CN2C1C=CC(=C2)C(=O)OC(C)(C)C | C12H14N2O2
reactant | methyl 5-(chlorocarbonyl)-2-nitrobenzoate | ClC(=O)C=1C=CC(=C(C(=O)OC)C1)[N+](=O)[O-] | C9H6ClNO5
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | tert-Butyl 3-[3-(methoxycarbonyl)-4-nitrobenzoyl]imidazo[1,5-a]pyridine-6-carboxylate | COC(=O)C=1C=C(C(=O)C2=NC=C3N2C=C(C=C3)C(=O)OC(C)(C)C)C=CC1[N+](=O)[O-] | C21H19N3O7
